US04766137
(1) 3-(2-chloro-6-fluorophenyl)-5-acetylisoxazole
To a solution of 30 g (124 mmol) of 1-[3-(2-chloro-6-fluorophenyl)-5-isoxazolyl]-ethanol in 187 ml of acetic acid maintained under stirring at 5° C. were added dropwise 9.07 (90.7 mmol) of CrO3 in 9.34 of water and 132 ml of acetic acid.

reactant | 1-[3-(2-chloro-6-fluorophenyl)-5-isoxazolyl]-ethanol | 124 mmol, 30 g | ClC1=C(C(=CC=C1)F)C1=NOC(=C1)C(C)O | C11H9ClFNO2
reactant | water | O | H2O
solvent | acetic acid | 187 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 132 ml | C(C)(=O)O | C2H4O2
product | 3-(2-chloro-6-fluorophenyl)-5-acetylisoxazole | ClC1=C(C(=CC=C1)F)C1=NOC(=C1)C(C)=O | C11H7ClFNO2
